US09284323B2
A solution of ethyl 2-triethylsilyloxy-2-(1-hydroxy-3,6-dimethylnaphthalen-2-yl)acetate (5.62 g of crude product from above, 14.5 mmol) in THF (58 mL) was treated with phenyl triflimide (7.75 g, 21.7 mmol) and Cs2CO3 (11.8 g, 36.3 mmol) at room temperature. After 3 hours, the reaction was diluted with EtOAc and water. The resulting organics were washed with 1M NaOH and brine. Following drying over MgSO4 and concentration in vacuo, the resulting residue was purified via Yamazen silica gel column chromatography (0-10% EtOAc/hex) to afford ethyl 2-triethylsilyloxy-2-(1-trifluoromethylsulfonyloxy-3,6-dimethylnaphthalen-2-yl)acetate. LCMS-ESI+ (m/z): [M+Na]+ calcd for C23H31F3O6SSiNa: 543.6. found: 543.0.

reactant | ethyl 2-triethylsilyloxy-2-(1-hydroxy-3,6-dimethylnaphthalen-2-yl)acetate | 14.5 mmol, 5.62 g | C(C)[Si](OC(C(=O)OCC)C1=C(C2=CC=C(C=C2C=C1C)C)O)(CC)CC | C22H32O4Si
reactant | phenyl triflimide | 21.7 mmol, 7.75 g | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | Cs2CO3 | 36.3 mmol, 11.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 58 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | ethyl 2-triethylsilyloxy-2-(1-trifluoromethylsulfonyloxy-3,6-dimethylnaphthalen-2-yl)acetate | C(C)[Si](OC(C(=O)OCC)C1=C(C2=CC=C(C=C2C=C1C)C)OS(=O)(=O)C(F)(F)F)(CC)CC | C23H31F3O6SSi
